US05523278
Preparation of Methyl 5-(3,4-dimethyl-2,5-dioxo-3-pyrrolin-1-yl)-6-fluoro-α-methyl-1,2-benzisoxazole-3-acetate
A solution of methyl 5-amino-6-fluoro-α-methyl-1,2-benzisoxazole-3-acetate (2.6 g, 11.0 mmol) in acetic acid is added to 2,3-dimethylmaleic anhydride (1.39 g, 11.0 mmol). The reaction mixture is refluxed for several hours and concentrated in vacuo to obtain a brown oil. A solution of the oil in ether is washed sequentially with sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a brown oil. Column chromatography of the oil using silica gel and ether/hexanes solutions gives the title product as a white solid, mp 106°-107° C.

reactant | methyl 5-amino-6-fluoro-α-methyl-1,2-benzisoxazole-3-acetate | 11.0 mmol, 2.6 g | NC=1C(=CC2=C(C(=NO2)C(C(=O)OC)C)C1)F | C11H11FN2O3
reactant | 2,3-dimethylmaleic anhydride | 11.0 mmol, 1.39 g | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 5-(3,4-dimethyl-2,5-dioxo-3-pyrrolin-1-yl)-6-fluoro-α-methyl-1,2-benzisoxazole-3-acetate | CC=1C(N(C(C1C)=O)C=1C(=CC2=C(C(=NO2)C(C(=O)OC)C)C1)F)=O | C17H15FN2O5
